** AUTHORED TEMPLATE — ia/thd_diff (plan_hierarchical_composition P3).
** Fully-differential large-signal distortion: a single tone at F0 (differential amplitude
** ASIG about VCM) drives the closed-loop IA; THD of the differential output is computed
** IN-DECK by a coherent single-bin DFT over harmonics 2..5 (control-script vector math —
** no FFT windowing/padding error), so the runner's measure parser picks up thd_pct/thd_db
** directly. analog-db's runner reads measures out of the ngspice LOG only — it has no route
** into the platform Tier-1 registry — so a deck that merely `write`s a raw yields "no
** measures parsed". The written raw stays available for the platform {meas: thd_pct, f0: F0}
** cross-check; the Spectre-lane upgrade is a native pss (fd-PSF harmonics), as in thd.spice.
**
** ia/thd.spice is a BYTE-IDENTICAL copy of this deck below the header. The class map exposes
** both names — `thd` is the canonical analysis id in metrics.yaml, `thd_diff` the explicit
** template ia_001 binds — and EVERY ia member is differential-in/differential-out, so there
** is no second single-ended form to write. Keep the two in sync; thd_diff.spice is the one
** under live test.
**
** ENDPOINT-DUPLICATION CORRECTION (2026-07-31). `linearize` returns N+1 points spanning
** exactly W periods, so its LAST sample repeats its FIRST. A plain mean()-based DFT leaves
** that duplicate in and biases every bin by |vac[0]|/N. Measured here on
** ia_001_hsu_bandpass_classab @ ihp-sg13g2 (ASIG=2m, F0=1k, TSTART=8m, 8-period window,
** TSTEP=1u, np=8001): the bias term 2*|vac[0]|/np = 1.700e-07 V. It is an ABSOLUTE bin
** bias, so what it costs depends entirely on the bin it lands in:
**   a3 = 1.9864e-05 naive -> 1.9964e-05 corrected  (0.5 %  — a3 sits 117x above the bias)
**   a4 = 2.4411e-07 naive -> 1.8117e-07 corrected  (35 %)
**   a5 = 4.4809e-07 naive -> 3.4756e-07 corrected  (29 %)
**   thd_pct = 0.05052399 naive -> 0.05076388 corrected (0.5 %)
** So on THIS cell thd_pct is a3-dominated and the correction is a sub-percent effect — do NOT
** repeat the amplifier class's "13x / a4-a5 are pure artifact" figure here, it is that cell's
** number, not this one's. The correction is kept because it is the mathematically exact
** rectangular window and because a4/a5 ARE artifact-comparable at this distortion level: on a
** lower-distortion sizing the bias stops being negligible and the DFT stops measuring the
** circuit. Cost is a few extra vector ops.
**
** The decisive evidence is TSTEP INVARIANCE — an endpoint bias falls as 1/N, so it shows up
** as a thd_pct that drifts with the timestep instead of converging. Measured on ia_001,
** TSTART=8m, 8-period window, TSTEP 4u / 2u / 1u / 0.5u (np = 2001 / 4001 / 8001 / 16001):
**   naive     0.049976 -> 0.050308 -> 0.050524 -> 0.050633 %   (+1.31 %, still climbing,
**                                                               and climbing TOWARDS the
**                                                               corrected value)
**   corrected 0.050854 -> 0.050774 -> 0.050764 -> 0.050754 %   (-0.20 %, converged)
** The corrected form is ~6.6x more timestep-stable and the naive form is converging onto it,
** which is what identifies the drift as the endpoint artifact and not circuit content.
**
** COHERENCE + SETTLING REQUIREMENT: recording starts at TSTART (the tran third argument) so
** the closed-loop startup transient is DISCARDED. Only the WINDOW LENGTH (TSTOP-TSTART) must
** be an integer number of F0 periods; TSTART itself need not be. A non-integer WINDOW is
** fatal, not cosmetic, and NO endpoint correction saves it — keep the integer-window
** requirement. >= 8 measured periods recommended and TSTEP <= 1/(200*F0).
**
** SETTLING IS THE BINDING'S JOB, AND IT IS THE DOMINANT UNCERTAINTY HERE — not the window.
** This class's DC-servo / pseudo-resistor high-pass corner is very low (ia_001: hpf_hz =
** 4.14 Hz, i.e. tau ~ 38 ms), so a TSTART of a few ms is a small fraction of one time
** constant and the cell is still drifting through the measured window. Measured on ia_001,
** 8-period window, corrected DFT, TSTEP=1u, TSTART swept:
**   TSTART      8m       24m       48m       96m      160m
**   a2     3.32e-07  2.22e-07  1.18e-07  3.96e-08  3.46e-09   <- 96x fall
**   a3    1.9964e-5 2.0025e-5 2.0088e-5 2.0135e-5 2.0158e-5
**   thd    0.050764  0.050911  0.051067  0.051185  0.051241 % (+0.94 %, still rising)
** So the committed ia_001 binding (TSTART=8m) is SETTLING-limited at the ~1 % level, and its
** a2 is dominated by startup residue rather than by real second-order distortion. Read a
** thd_pct from this bench as settling-limited unless TSTART is several times
** 1/(2*pi*hpf_hz); an a2 that collapses as TSTART grows is the tell. This is a BINDING
** choice, not a template one — TSTART costs simulation time linearly and belongs in
** analyses/thd.yaml. The window-phase null test (TSTART 8m -> 8.5m, window still 8 periods)
** moves thd_pct 0.05052 -> 0.05150 % (1.9 %) — that residual is SETTLING, not windowing: it
** moves a3 (the dominant bin) by the same 1.97 % and is present in the naive and corrected
** forms alike.
**
** `write` runs BEFORE `linearize` on purpose: `linearize` makes a NEW plot holding only the
** scratch vectors, so writing after it shrinks the raw from every circuit node to the DFT
** scratch and loses v(voutp)/v(voutn) — which would break the platform cross-check above.
** (This deck used to `write` last and shipped exactly that defect.)
**
** DEAD-OUTPUT GUARD. The old deck guarded nothing: it floored nothing and relied on the
** runner's NaN check, and a NaN was the ONLY thing the runner rejected. A node that is dead
** but capacitively fed through still returns a small a1 and a plausible-looking thd_pct —
** numbers from nothing (that is how the amplifier class's fully-differential cells reported
** 3.5-11.7 % THD off a dead node). The guard here is a measured GAIN, not a NaN check: the
** differential DRIVE is DFT'd from the deck itself (a1_in, the same coherent bin taken on
** v(vinp)-v(vinn)) and gain_tone = a1/a1_in must clear 0.1 V/V (-20 dB). Referencing the
** MEASURED drive instead of the ${ASIG} binding also makes the guard immune to a mis-bound or
** mis-parsed stimulus — if the source is wrong, a1_in says so. 0.1 sits far below any real
** bench (an IA runs ~20 V/V, a unity buffer ~1) and far above the ~0.02 V/V feedthrough that
** fooled the old guard. On a fail, thd_pct/thd_db become the loud 999 sentinel — NOT NaN,
** which would make the runner discard the whole analysis.
**
** Measures: a1..a5 (harmonic amplitudes, V), a1_in (measured differential drive), gain_tone,
** vod_op (residual differential output offset — what the DC removal cancels), vod_pp,
** thd_pct, thd_db. Diagnostic names are deliberately kept OUT of raw_project._SPEC_REGISTRY
** (`vod_op`, not `vout_dc`; `gain_tone`, not `gain_cl`) so they stay recorded diagnostics and
** never silently become optimizer objectives on a project exported from this deck.
**
** Assumes a self-biased, differential-in/differential-out DUT port order:
**   .subckt <id> vinp vinn voutp voutn vdd vss
** Required bindings: DUT PORT_LINE VDD VCM CL ASIG F0 TSTEP TSTART TSTOP PDK_INCLUDE.
${PDK_INCLUDE}

.param VDD=${VDD}
.param VCM=${VCM}
.param CL=${CL}
.param ASIG=${ASIG}

Vdd  vdd 0 dc {VDD}
Vss  vss 0 dc 0
CLoadp voutp 0 {CL}
CLoadn voutn 0 {CL}
Vcm  vcm 0 dc {VCM}
* balanced differential tone: +/- ASIG/2 per side about the common mode
Vinp vinp vcm sin(0 {ASIG/2} ${F0})
Vinn vinn vcm sin(0 {-ASIG/2} ${F0})

${PORT_LINE} ${DUT}

.control
  set filetype=ascii
  tran ${TSTEP} ${TSTOP} ${TSTART}
  * raw FIRST — see the header; `linearize` below switches the current plot
  write
  let vd = v(voutp) - v(voutn)
  let vi = v(vinp) - v(vinn)
  linearize vd vi
  let t = time
  let vod_op = mean(vd)
  let vod_pp = maximum(vd) - minimum(vd)
  * strip the DC term before the DFT (exact for a constant); it also yields vod_op, the
  * residual differential output offset, as a diagnostic
  let vac = vd - vod_op
  let vin_ac = vi - mean(vi)
  * np = N+1 samples spanning exactly W periods; the last REPEATS the first (see the header).
  * mean()*np recovers the raw sum, the vac[0]*c[0] term drops the duplicate, and /nd
  * normalises over the N non-redundant samples -> an exactly rectangular window.
  let np = length(vac)
  let nd = np - 1
  let w = 2*pi*${F0}
  let c1 = cos(w*t)
  let s1 = sin(w*t)
  let re1 = (mean(vac*c1)*np - vac[0]*c1[0])/nd
  let im1 = (mean(vac*s1)*np - vac[0]*s1[0])/nd
  let a1 = 2*sqrt(re1^2+im1^2)
  * the SAME bin taken on the drive — the reference for the dead-output guard
  let rei = (mean(vin_ac*c1)*np - vin_ac[0]*c1[0])/nd
  let imi = (mean(vin_ac*s1)*np - vin_ac[0]*s1[0])/nd
  let a1_in = 2*sqrt(rei^2+imi^2)
  let c2 = cos(2*w*t)
  let s2 = sin(2*w*t)
  let re2 = (mean(vac*c2)*np - vac[0]*c2[0])/nd
  let im2 = (mean(vac*s2)*np - vac[0]*s2[0])/nd
  let a2 = 2*sqrt(re2^2+im2^2)
  let c3 = cos(3*w*t)
  let s3 = sin(3*w*t)
  let re3 = (mean(vac*c3)*np - vac[0]*c3[0])/nd
  let im3 = (mean(vac*s3)*np - vac[0]*s3[0])/nd
  let a3 = 2*sqrt(re3^2+im3^2)
  let c4 = cos(4*w*t)
  let s4 = sin(4*w*t)
  let re4 = (mean(vac*c4)*np - vac[0]*c4[0])/nd
  let im4 = (mean(vac*s4)*np - vac[0]*s4[0])/nd
  let a4 = 2*sqrt(re4^2+im4^2)
  let c5 = cos(5*w*t)
  let s5 = sin(5*w*t)
  let re5 = (mean(vac*c5)*np - vac[0]*c5[0])/nd
  let im5 = (mean(vac*s5)*np - vac[0]*s5[0])/nd
  let a5 = 2*sqrt(re5^2+im5^2)
* --- dead-output guard: a MEASURED gain, not a NaN check (see the header) ---
* do NOT write `>` inside a `let` — the control preprocessor strips it as an output
* redirection and silently truncates the RHS. Masks use `<=`, inverted with 1 - mask.
  let gain_tone = a1/(a1_in + 1e-18)
  let dead = (gain_tone <= 0.1)
  let live = 1 - dead
  let thd_raw = 100*sqrt(a2^2+a3^2+a4^2+a5^2)/(a1 + 1e-18)
  let thd_pct = live*thd_raw + dead*999
  let thd_db = 20*log10(thd_pct/100 + 1e-18)
  print a1 a2 a3 a4 a5 a1_in gain_tone vod_op vod_pp thd_pct thd_db
  quit
.endc
.end
